US05202335
To a suspension of 3-(cis-hexahydro-2-isoindolinylcarbonyl)-2-(4-methylbenzyl)propionic acid (100 mg) in diethyl ether (10 ml) was added a solution of diazomethane in diethyl ether (10 ml) with stirring at 0° C. After the mixture was stirred at room temperature for 1 hour, excess diazomethane was decomposed with acetic acid. The reaction mixture was washed successively with saturated sodium bicarbonate solution and brine and dried over MgSO4. After the solvent was evaporated under reduced pressure, the residue was purified by column chromatography on silica gel eluting with hexane/ethyl acetate (4/1) to give 60 mg of methyl 3-(cis-hexahydro-2-isoindolinylcarbonyl)-2-(4-methylbenzyl)propionate as a colorless viscous oil.

reactant | 3-(cis-hexahydro-2-isoindolinylcarbonyl)-2-(4-methylbenzyl)propionic acid | 100 mg | C1N(C[C@@H]2CCCC[C@H]12)C(=O)CC(C(=O)O)CC1=CC=C(C=C1)C | C20H27NO3
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | methyl 3-(cis-hexahydro-2-isoindolinylcarbonyl)-2-(4-methylbenzyl)propionate | 60 mg | C1N(C[C@@H]2CCCC[C@H]12)C(=O)CC(C(=O)OC)CC1=CC=C(C=C1)C | C21H29NO3
